US05414002
A solution is prepared from 3.3 g (8.5 mmol) of 6-benzyloxy-4-methoxymethyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid isopropyl ester in 150 ml of methylene chloride, combined under argon with 3.9 ml of triethylamine, and cooled to -15° C. At this temperature, a solution of 3.2 ml (25.6 mmol) of tert-butyl hypochlorite in 50 ml of methylene chloride is added dropwise without delay to this solution. After the adding step is completed, the mixture is stirred for another 10 minutes, combined with 2.6 ml of triethylamine, and agitated for 2 hours at room temperature. Subsequently, the mixture is concentrated to one-half thereof and extracted once by shaking with dilute ammonia solution. The organic phase is dried, filtered, and concentrated. The residue is chromatographed over silica gel with methylene chloride:acetone=4:1 as the eluent. Recrystallization from ethyl acetate gives 1.1 g (35% yield) of 6-benzyloxy-4-methoxymethyl-β-carboline-3-carboxylic acid isopropyl ester, mp 150°-151° C.

reactant | 6-benzyloxy-4-methoxymethyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid isopropyl ester | 8.5 mmol, 3.3 g | C(C)(C)OC(=O)C1NCC=2NC3=CC=C(C=C3C2C1COC)OCC1=CC=CC=C1 | C24H28N2O4
reactant | triethylamine | 3.9 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyl hypochlorite | 25.6 mmol, 3.2 ml | ClOC(C)(C)C | C4H9ClO
reactant | triethylamine | 2.6 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 6-benzyloxy-4-methoxymethyl-β-carboline-3-carboxylic acid isopropyl ester | 1.1 g, 35% yield | C(C)(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1COC)OCC1=CC=CC=C1 | C24H24N2O4
